US04404203
In an alternate procedure, a mixture of 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxylic acid (1.92 g), triethylamine (3.0 ml), and thionyl chloride (5.0 ml) in tetrahydrofuran is allowed to stir at 20°-25° C. for 6 hours. The mixture is concentrated on the rotary evaporator and the residue is treated with 50 ml of cold ammonium hydroxide solution. The solid product is collected and recrystallized from acetic acid to give 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxamide.

reactant | 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxylic acid | 1.92 g | O=C1NN=C(C=C1C(=O)O)C1=CC=CC=C1 | C11H8N2O3
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 5.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-dihydro-3-oxo-6-phenyl-4-pyridazinecarboxamide | O=C1NN=C(C=C1C(=O)N)C1=CC=CC=C1 | C11H9N3O2
